US07700589B2
[1′-((R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionyl)-[4,4′]bipiperidinyl-1-yl]-acetic acid
A mixture of 150 mg (0.21 mmol) ethyl [1′-((R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionyl)-[4,4′]bipiperidinyl-1-yl]-acetate, 20 mL THF and 2.5 mL 0.1 M NaOH was stirred for 12 h at RT. The organic solvent was eliminated under reduced pressure and the pH of the reaction mixture was adjusted to exactly 7.0 by the addition of 0.1 M HCl. The precipitate was suction filtered, washed with a little water and dried.

reactant | ethyl [1′-((R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionyl)-[4,4′]bipiperidinyl-1-yl]-acetate | 0.21 mmol, 150 mg | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)OCC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C42H60N6O5
reactant | NaOH | 0.1 M, 2.5 mL | [OH-].[Na+]
reactant | HCl | 0.1 M | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [1′-((R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionyl)-[4,4′]bipiperidinyl-1-yl]-acetic acid | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C40H56N6O5
